US07728072B2
a Preparation of a Novel Epichlorohydrin-dimethylaminopropylamine/benzylamine Polymer
1 020 g (10 mol) of dimethylaminopropylamine and 267.5 g (2.5 mol) of benzylamine are mixed in 1 519.1 g of water. The solution/suspension is heated to 50° C. Thereafter, 931 ml of epichlorohydrin (1 098.4 g/l 1.875 mol) are added dropwise at a rate of 16 ml/min while heating to 85° C., and stirring is effected for two hours at 85° C. The stirring at 85° C. is continued until free alkylating agent is no longer detectable (Preuβmann test). The reaction mixture is cooled, diluted with 2 l of water and brought to a pH of 7.0 with 85% strength formic acid. Further water is added until the solids content is 21%.

reactant | dimethylaminopropylamine | 10 mol | CN(C)CCCN | C5H14N2
reactant | benzylamine | 2.5 mol, 267.5 g | C(C1=CC=CC=C1)N | C7H9N
reactant | epichlorohydrin | 1.875 mol, 931 ml | C(Cl)C1CO1 | C3H5ClO
reactant | formic acid | C(=O)O | CH2O2
solvent | water | 2 l | O | H2O
product | Epichlorohydrin dimethylaminopropylamine benzylamine | C(Cl)C1CO1.CN(C)CCCN.C(C1=CC=CC=C1)N | InChI=1S/C7H9N.C5H14N2.C3H5ClO/c8-6-7-4-2-1-3-5-7;1-7(2)5-3-4-6;4-1-3-2-5-3/h1-5H,6,8H2;3-6H2,1-2H3;3H,1-2H2
